US07119122B2
4-Chloro-2-fluorobenzonitrile (0.60 g, 3.9 mmol), vanillin (0.59 g, 3.9 mmol) and cesium carbonate (1.26 g, 3.9 mmol) were heated with stirring in dry DMF (4 ml) at 50° C. for 22 h. The reaction mixture was cooled, poured into water and extracted with ethyl acetate. The ethyl acetate layer was separated, washed with water, 10% aqueous sodium carbonate (2×), water (2×), brine, and dried over MgSO4. After filtration, the solvent was removed in vacuo to yield 4-chloro-2-(4-formyl-2-methoxy-phenoxy)-benzonitrile (0.98 g, 88%) as an off-white solid.

reactant | 4-Chloro-2-fluorobenzonitrile | 3.9 mmol, 0.60 g | ClC1=CC(=C(C#N)C=C1)F | C7H3ClFN
reactant | vanillin | 3.9 mmol, 0.59 g | O=CC1=CC(OC)=C(O)C=C1 | C8H8O3
reactant | cesium carbonate | 3.9 mmol, 1.26 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | water | O | H2O
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
product | 4-chloro-2-(4-formyl-2-methoxy-phenoxy)-benzonitrile | 0.98 g, 88% | ClC1=CC(=C(C#N)C=C1)OC1=C(C=C(C=C1)C=O)OC | C15H10ClNO3
